US08030317B2
3-Benzyl-5-(2-fluoro-4-nitrophenylamino)-8-methylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (compound 5D):
3-Benzyl-5-chloro-8-methylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (950 mg, 3.15 mmol, 1 eq), 2-fluoro-4-nitroaniline (540 mg, 3.46 mmol, 1.1 eq), tris(dibenzylideneacetone)dipalladium(0) (58 mg, 0.06 mmol, 0.02 eq), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (36 mg, 0.06 mmol, 0.02 eq) and sodium tert-butoxide (453 mg, 4.7 mmol, 1.5 eq) were mixed in degassed anhydrous dioxane (7 mL) and subjected to microwave irradiation at 100° C. for 30 minutes. Upon cooling a precipitate formed which was filtered and washed with cold dioxane (3 mL) to give 910 mg of the title compound (69%). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.55 (s, 3H) 5.23 (s, 2H) 6.14 (s, 1H) 7.29-7.41 (m, 5H) 7.81-7.94 (m, 1H) 8.14 (d, J=10.86 Hz, 1H) 8.25 (d, J=11.12 Hz, 1H) 8.96 (s, 1H) 11.23 (s, 1H) [M+H] calc'd for C21H16FN5O4, 422; found, 422.

reactant | 3-Benzyl-5-chloro-8-methylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 3.15 mmol, 950 mg, 1 eq | C(C1=CC=CC=C1)N1C=NC2=C(C1=O)C(=CC(N2C)=O)Cl | C15H12ClN3O2
reactant | 2-fluoro-4-nitroaniline | 3.46 mmol, 540 mg, 1.1 eq | FC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | sodium tert-butoxide | 4.7 mmol, 453 mg, 1.5 eq | CC(C)([O-])C.[Na+]
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.06 mmol, 58 mg, 0.02 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.06 mmol, 36 mg, 0.02 eq | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | 3-Benzyl-5-(2-fluoro-4-nitrophenylamino)-8-methylpyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 910 mg, 69% | C(C1=CC=CC=C1)N1C=NC2=C(C1=O)C(=CC(N2C)=O)NC2=C(C=C(C=C2)[N+](=O)[O-])F | C21H16FN5O4
